US05241099
Analogously to Example 1, 27.6 g of 95.5% pure dipyrroli-dino-formamidinium methylsulphate were reacted with 11.4 g of ethyl cyanoacetate and 4.0 g of NaOH powder in 140 ml of toluene. After work-up, 95.5% of ethyl pyrrolidino-methylenecyanoacetate were obtained.

reactant | dipyrroli-dino-formamidinium methylsulphate | 27.6 g | COS(=O)(=O)[O-].N1(CCCC1)[NH+]=C(N)N1CCCC1
reactant | ethyl cyanoacetate | 11.4 g | C(#N)CC(=O)OCC | C5H7NO2
reactant | NaOH | 4.0 g | [OH-].[Na+]
solvent | toluene | 140 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl pyrrolidino-methylenecyanoacetate | 95.5% | N1(CCCC1)C=C(C(=O)OCC)C#N | C10H14N2O2
